US08314088B2
8-benzyl-3-[(3R)-3-ethylmorpholin-4-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A suspension of 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (308 mg), (3R)-3-ethylmorpholine (193 mg), Pd2(dba)3 (31 mg), XPhos (64 mg) and sodium tert-butoxide (216 mg) in toluene (6 mL) was stirred under an argon atmosphere with heating at 100° C. for 2 hr. Water was added to the reaction mixture, the aqueous layer was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 5→33% ethyl acetate/hexane) to give the title compound (132 mg, 33%) as a pale-yellow oil.

reactant | 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 308 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)Cl | C14H14ClN3O
reactant | (3R)-3-ethylmorpholine | 193 mg | C(C)[C@H]1NCCOC1 | C6H13NO
reactant | XPhos | 64 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium tert-butoxide | 216 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 31 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 8-benzyl-3-[(3R)-3-ethylmorpholin-4-yl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 132 mg, 33% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2[C@@H](COCC2)CC | C20H26N4O2
